US05506258
63.6 ml of an N aqueous NaOH solution and 1.28 g of MgO are introduced, at 0° C., into 50 ml of dioxane containing 5 g of trans-4-(aminomethyl)cyclohexylcarboxylic acid, followed, slowly, by 6.94 g of di(t-butyl)carbonate in solution in 20 ml of dioxane. After 20 hours at room temperature, the mixture is filtered, the solvent is removed and the residue is taken up in 100 ml of H2O and the aqueous phase is washed with (C2H5)2O before acidifying it up to pH 2 by addition of KHSO)4 ; it is then extracted in CH3COOC2H5 to yield 7.3 g of trans-N-(t-butoxycarbonyl)-4-(aminomethyl)cyclohexylcarboxylic acid which melts at 125° C.

reactant | NaOH | [OH-].[Na+]
reactant | trans-4-(aminomethyl)cyclohexylcarboxylic acid | NC[C@@H]1CC[C@H](CC1)C(=O)O | C8H15NO2
reactant | di(t-butyl)carbonate | 6.94 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 ml, 5 g | O1CCOCC1 | C4H8O2
product | trans-N-(t-butoxycarbonyl)-4-(aminomethyl)cyclohexylcarboxylic acid | 7.3 g | C(C)(C)(C)OC(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O | C13H23NO4
